US08859541B2
2-(methylamino)-N-[5-(2-methylimidazo[1,2-a]pyridin-3-yl)-6-[2-(1-methyl-2-oxoquinolin-6-yl)ethynyl]pyridin-2-yl]propanamide
A mixture of tert-butyl-N-methyl-N-[1-[[5-(2-methylimidazo[1,2-a]pyridin-3-yl)-6-[2-(1-methyl-2-oxoquinolin-6-yl)ethynyl]pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate G1b (17 mg, 0.03 mmol) and DCM:TFA (9:1, 2 ml) is stirred at RT for 2 h. The mixture is diluted with DCM and a saturated aqueous solution of NaHCO3 is added. The mixture is extracted with DCM. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 14 mg (99%). HPLC-MS: M+H=491; tR=0.97 min (*Method—1).

reactant | tert-butyl-N-methyl-N-[1-[[5-(2-methylimidazo[1,2-a]pyridin-3-yl)-6-[2-(1-methyl-2-oxoquinolin-6-yl)ethynyl]pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(N(C(C(=O)NC1=NC(=C(C=C1)C1=C(N=C2N1C=CC=C2)C)C#CC=2C=C1C=CC(N(C1=CC2)C)=O)C)C)=O | C34H34N6O4
reactant | DCM TFA | 2 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(methylamino)-N-[5-(2-methylimidazo[1,2-a]pyridin-3-yl)-6-[2-(1-methyl-2-oxoquinolin-6-yl)ethynyl]pyridin-2-yl]propanamide | CNC(C(=O)NC1=NC(=C(C=C1)C1=C(N=C2N1C=CC=C2)C)C#CC=2C=C1C=CC(N(C1=CC2)C)=O)C | C29H26N6O2
